US07723381B2
2-methyl-2-(4-nitrophenyl)-[1,3]dioxolane:
33.03 g (200 mmol) of 4-nitroacetophenone, 12.30 mL (220 mmol) of ethylene glycol, and 1.00 g (5 mmol) of p-toluenesulfonic acid are placed in 250 mL of toluene, then refluxed for 16 hours using the water separator. Then the reaction mixture is cooled and extracted with water. The organic phase is dried and evaporated to dryness. The residue is extracted with diisopropyl ether and suction filtered. Yield: 34.45 g (82%).

reactant | 4-nitroacetophenone | 200 mmol, 33.03 g | CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3
reactant | ethylene glycol | 220 mmol, 12.30 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 5 mmol, 1.00 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-(4-nitrophenyl)-[1,3]dioxolane | CC1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO4
